US05932571
Synthesis of 4-(1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepane
Alternatively, combine 4-(1-(5-(ethoxycarbonyl)fur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (1.0 g, 2.7 mmol) and tetrahydrofuran (10 mL). Add a solution of lithium aluminum hydride in tetrahydrofuran (2.7 mL, 1 M, 2.7 mmol). After 18 hour, quench by slow portionwise addition of Glauber's salt (Na2SO4.10H2O) until gas evolution ceases. Add dichloromethane (20 mL) and celite and stir. Filter and evaporate in vacuo to give the title compound.

reactant | 4-(1-(5-(ethoxycarbonyl)fur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 2.7 mmol, 1.0 g | C(C)OC(=O)C1=CC=C(O1)CN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C20H24N4O3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.7 mmol, 1 M, 2.7 mL | O1CCCC1 | C4H8O
product | 4-(1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | OCC1=CC=C(O1)CN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C18H22N4O2
